US07112590B2
(2S)-N-(4-amino-6-quinazolinyl)-1-{2-[(triphenylmethyl)amino]acetyl}-2-pyrrolidinecarboxamide
N-Tritylglycine (1.58 g, 5.0 mmol) and (2S)-N-(4-amino-6-quinazolinyl)-2-pyrrolidinecarboxamide (1.15 g, 4.5 mmol) were dissolved in 11 mL N,N-dimethylformamide and cooled to 0° C. HOBt (0.770 g, 5.0 mmol) was added and pH was set to 8 with N-methylmorpholine. After 10 minutes EDC (0.978 g, 5.0 mmol) was added and the mixture was stirred for 12 hours. The solvent was evaporated and the crude product was purified with column chromatography using chloroform/methanol (9/1) as eluant.

reactant | N-Tritylglycine | 5.0 mmol, 1.58 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NCC(=O)O | C21H19NO2
reactant | (2S)-N-(4-amino-6-quinazolinyl)-2-pyrrolidinecarboxamide | 4.5 mmol, 1.15 g | NC1=NC=NC2=CC=C(C=C12)NC(=O)[C@H]1NCCC1 | C13H15N5O
reactant | HOBt | 5.0 mmol, 0.770 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | N-methylmorpholine | CN1CCOCC1 | C5H11NO
reactant | EDC | 5.0 mmol, 0.978 g
solvent | N,N-dimethylformamide | 11 mL | CN(C=O)C | C3H7NO
product | (2S)-N-(4-amino-6-quinazolinyl)-1-{2-[(triphenylmethyl)amino]acetyl}-2-pyrrolidinecarboxamide | NC1=NC=NC2=CC=C(C=C12)NC(=O)[C@H]1N(CCC1)C(CNC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C34H32N6O2
